US07465730B2
A solution of 1,1,2,2-tetraacetylethane (600 mg, 3.0 mol) and (2-amino-5-ethoxy-phenyl)-methanol (496 mg, 3.0 mmol) was refluxed in EtOH (10 mL)/AcOH (1%) for 14 h. It was cooled to rt, and anhydrous hydrazine (200 μL, 6.3 mmol) was added. After stirring at rt for 1 h, the reaction mixture was poured into ice water (50 mL). The resulting precipitate was filtered, washed with diethyl ether (20 mL), and then dried under vacuum to afford [5-ethoxy-2-(1,4,5,7-tetramethyl-pyrrolo[3,4-d]pyridazin-6-yl)-phenyl]-methanol as a pale yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.22 (s, 1H), 6.95 (m, 2H), 4.40 (s, 2H), 4.16 (q, 2H), 2.66 (s, 6H), 2.41 (s, 6H), 1.50 (t, 3H); MS (ESI) 326 (M+H)+.

reactant | 1,1,2,2-tetraacetylethane | 3.0 mol, 600 mg | C(C)(=O)C(C(C(C)=O)C(C)=O)C(C)=O | C10H14O4
reactant | (2-amino-5-ethoxy-phenyl)-methanol | 3.0 mmol, 496 mg | NC1=C(C=C(C=C1)OCC)CO | C9H13NO2
reactant | AcOH | CC(=O)O | C2H4O2
reactant | hydrazine | 6.3 mmol, 200 μL | NN | H4N2
solvent | EtOH | 10 mL | CCO | C2H6O
product | [5-ethoxy-2-(1,4,5,7-tetramethyl-pyrrolo[3,4-d]pyridazin-6-yl)-phenyl]-methanol | C(C)OC=1C=CC(=C(C1)CO)N1C(=C2C(=NN=C(C2=C1C)C)C)C | C19H23N3O2
